US03983111
21-Hydroxy-5α-pregnane-3,11,20-trione
21-Acetoxy-5α-pregnane-3,11,20-trione (4.85 g.) in hot methanol (200 ml.) was treated with potassium bicarbonate solution (10%; 20 ml.) and the stirred solution was refluxed under nitrogen for 15 minutes. The cooled reaction mixture was diluted with water and the oily precipitate was extracted into methylene chloride. The extract was washed with water, dried over sodium sulphate and evaporated to a foam (4.3 g.) which was triturated with ether to give title compound (3.07 g.) as white crystals, m.p. 164°-170°.

reactant | 21-Acetoxy-5α-pregnane-3,11,20-trione | 4.85 g | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C23H32O5
reactant | potassium bicarbonate | 20 ml | C([O-])(O)=O.[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | O | H2O
product | 21-Hydroxy-5α-pregnane-3,11,20-trione | 3.07 g | OCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H30O4
